US04571396
1-Cyclopropyl-6-fluoro-1,4-dihydro-7-[5-(2-hydroxyethyl)-2,5-diazabicyclo(2.2.2)oct-2-yl]-4-oxo-1,8-naphthyridine-3-carboxylic acid, monohydrobromide
A solution of 0.77 g (2.0 mmol) of 7-(2,5-diazabicyclo[2.2.2]oct-2-yl)-1-cyclopropyl-6-fluoro-1,4-dihydro-4-oxo-1,8-naphthyridine-3-carboxylic acid, 0.70 ml (8.0 mmol) of 2-bromoethanol, 1.30 ml (8.0 mmol) of triethylamine, and 20 ml of DMF was heated at 100° C. for 18 hours. The reaction solution was evaporated to dryness and the residue was triturated ethanol. The solid was collected by filtration to give 0.61 g of the title product, mp 290° C. dec (a).

reactant | 7-(2,5-diazabicyclo[2.2.2]oct-2-yl)-1-cyclopropyl-6-fluoro-1,4-dihydro-4-oxo-1,8-naphthyridine-3-carboxylic acid | 2.0 mmol, 0.77 g | C12N(CC(NC1)CC2)C2=C(C=C1C(C(=CN(C1=N2)C2CC2)C(=O)O)=O)F | C18H19FN4O3
reactant | 2-bromoethanol | 8.0 mmol, 0.70 ml | BrCCO | C2H5BrO
reactant | triethylamine | 8.0 mmol, 1.30 ml | C(C)N(CC)CC | C6H15N
solvent | DMF | 20 ml | CN(C)C=O | C3H7NO
product | 1-Cyclopropyl-6-fluoro-1,4-dihydro-7-[5-(2-hydroxyethyl)-2,5-diazabicyclo(2.2.2)oct-2-yl]-4-oxo-1,8-naphthyridine-3-carboxylic acid, monohydrobromide | 0.61 g | Br.C1(CC1)N1C=C(C(C2=CC(=C(N=C12)N1C2CN(C(C1)CC2)CCO)F)=O)C(=O)O | InChI=1S/C20H23FN4O4.BrH/c21-16-7-14-17(27)15(20(28)29)10-25(11-1-2-11)18(14)22-19(16)24-9-12-3-4-13(24)8-23(12)5-6-26;/h7,10-13,26H,1-6,8-9H2,(H,28,29);1H
